US07645789B2
Phenyl boronic acid (24.6 mg, 0.204 mmol) was added to a solution of 1-(benzo[d][1,3]-dioxol-5-yl)-N-(3-bromo-1H-indol-5-yl)cyclopropanecarboxamide (39.9 mg, 0.100 mmol) in ethanol (1 mL) containing FibreCat 1001 (6 mg) and 1M aqueous potassium carbonate (0.260 mL). The reaction mixture was then heated at 130° C. in a microwave reactor for 20 minutes. The crude product was then purified by preparative HPLC utilizing a gradient of 0-99% acetonitrile in water containing 0.05% trifluoroacetic acid to yield 1-(benzo[d][1,3]dioxol-5-yl)-N-(3-phenyl-1H-indol-5-yl)cyclopropane carboxamide. ESI-MS m/z calc. 396.2, found 397.3 (M+1)+. Retention time of 3.52 minutes. 1H NMR (400 MHz, DMSO-d6) δ 11.27 (d, J=1.9 Hz, 1H), 8.66 (s, 1H), 8.08 (d, J=1.6 Hz, 1H), 7.65-7.61 (m, 3H), 7.46-7.40 (m, 2H), 7.31 (d, J=8.7 Hz, 1H), 7.25-7.17 (m, 2H), 7.03 (d, J=1.6 Hz, 1H), 6.98-6.87 (m, 2H), 6.02 (s, 2H), 1.43-1.39 (m, 2H), 1.06-1.02 (m, 2H).

reactant | Phenyl boronic acid | 0.204 mmol, 24.6 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 1-(benzo[d][1,3]-dioxol-5-yl)-N-(3-bromo-1H-indol-5-yl)cyclopropanecarboxamide | 0.100 mmol, 39.9 mg | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C1C(=CNC1=CC2)Br | C19H15BrN2O3
reactant | potassium carbonate | 1M, 0.260 mL | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 1-(benzo[d][1,3]dioxol-5-yl)-N-(3-phenyl-1H-indol-5-yl)cyclopropane carboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C1C(=CNC1=CC2)C2=CC=CC=C2 | C25H20N2O3
